US06436923B1
A. 1-[4-(2-Bromoethoxy)phenyl]ethanone
A mixture of 1-(hydroxyphenyl)ethanone (2.72 g, 20.0 mmol), 1,2-dibromoethane (7.676 g, 40.0 mmol), and potassium carbonate (5.52 g, 40 mmol) in dried dimethylformamide (40 mL) was heated at 50° C. overnight. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, concentrated, and purified by column chromatography (SiO2, 20-70% ethyl acetate/hexane) to provide the title compound (1.91 g, 39% yield): 1H NMR (CDCl3) 7.95 (t, 2H), 6.95 (t, 2H), 4.36 (t, 2H), 3.67 (t, 2H), 2.57 (s, 3H); ES-MS (m/z) 243 [M+H]+.

reactant | 1-(hydroxyphenyl)ethanone | 20.0 mmol, 2.72 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | 1,2-dibromoethane | 40.0 mmol, 7.676 g | BrCCBr | C2H4Br2
reactant | potassium carbonate | 40 mmol, 5.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 1-[4-(2-Bromoethoxy)phenyl]ethanone | 1.91 g, 39% yield | BrCCOC1=CC=C(C=C1)C(C)=O | C10H11BrO2
